US06548493B1
tert-butyl (6aS,10aR)-2-(3,4-dimethoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and corresponding 3,4-dimethoxyphenyl boronic acid (182 mg, 1.0 mmol) to afford after chromatographic purification the title compound (92 mg, 42%). 1H NMR (CDCl3, 300 MHz) δ7.15 (s, 1H), 7.11 (s, 1H), 7.01-7.04 (m, 2H), 6.89 (d, 1H, J=8.0 Hz), 4.02-4.10 (m, 1H), 3.92 (d, 6H, J=8.1 Hz), 3.64-3.78 (m, 1H), 2.82-3.52 (m, 8H), 1.82-1.90 (m, 2H), 1.49 (s, 9H) ppm. MS-ApCI: 437 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 3,4-dimethoxyphenyl boronic acid | 1.0 mmol, 182 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | tert-butyl (6aS,10aR)-2-(3,4-dimethoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | COC=1C=C(C=CC1OC)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C26H32N2O4
